### PR TITLE
Create InvariantSubspaceProblem.lean

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
A formalization of Invariant subspace problem #530.

### CODE REVIEW

**Comment by yoh-tanimoto** [comment]
I'm not registered on GitHub with gmail, so my email address set on the commit does not match the email address associated with my CLA. What should I do?

**Comment by mo271** [comment]
Thanks for the commit, first of all!


> I'm not registered on GitHub with gmail, so my email address set on the commit does not match the email address associated with my CLA. What should I do?

Perhaps you could change the email in the commit to an email address associated with CLA? For instance 
```
git commit --amend --author="Yoh Tanimoto <the-address-you-sigend-the-cla-with@gmail.com>" --no-edit
```
and then force pushing should change the email address on the commit.

**Comment by yoh-tanimoto** [comment]
It was meant to change the email of the commit, I see!
I did it, thanks.

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 1]
```diff
@@ -0,0 +1,34 @@
...
+variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace ℂ H] [CompleteSpace H] [TopologicalSpace.SeparableSpace H]
+
+/--
+Determine whether every bounded linear operator `T : H → H` in a separable Hilbert space `H` has a
+non-trivial closed `T`-invariant subspace: a closed linear subspace `W` of `H`, which is different
+from `{ 0 }` and from `H`, such that `T ( W ) ⊂ W`.-/
+@[category research open, AMS 47]
+theorem Invariant_subspace_problem (x : H →L[ℂ] H) : (∃ (S : Submodule ℂ H), S.carrier ≠ ∅ ∧
+    S.carrier ≠ {0} ∧ S.carrier ≠ Set.univ ∧ IsClosed S.carrier ∧ ∀ v ∈ S, x v ∈ S.carrier) := by
+ sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: Here's the formulation I would suggest:
```suggestion
variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace ℂ H] [CompleteSpace H] [TopologicalSpace.SeparableSpace H]

/-- `ClosedInvariantSubspace T` is the type of closed subspaces of complex vector space `H`
that are invariant under the action of linear map `x`. -/
structure ClosedInvariantSubspace (T : H →L[ℂ] H) where
  toSubspace : Submodule ℂ H
  ne_bot : toSubspace ≠ ⊥
  ne_top : toSubspace ≠ ⊤
  is_closed : IsClosed (toSubspace : Set H)
  is_fixed : toSubspace.map T ≤ toSubspace

/--
Determine whether every bounded linear operator `T : H → H` in a separable Hilbert space `H` has a
non-trivial closed `T`-invariant subspace: a closed linear subspace `W` of `H`, which is different
from `{ 0 }` and from `H`, such that `T ( W ) ⊂ W`.-/
@[category research open, AMS 47]
theorem Invariant_subspace_problem (T : H →L[ℂ] H) : Nonempty (ClosedInvariantSubspace T) := by
  sorry

```

The advantage of separating the definition of `ClosedInvariantSubspace` from the statement of the conjecture is that we can then re-use it to state e.g. solved special cases, as well as add some API to help reason about that concept. 

The definition can arguably be refined (and generalised to other base field and so on), but we can leave that to another PR.

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 2]
```diff
@@ -0,0 +1,34 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Invariant_subspace_problem)
+-/
+
+variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace ℂ H] [CompleteSpace H] [TopologicalSpace.SeparableSpace H]
+
+/--
+Determine whether every bounded linear operator `T : H → H` in a separable Hilbert space `H` has a
+non-trivial closed `T`-invariant subspace: a closed linear subspace `W` of `H`, which is different
+from `{ 0 }` and from `H`, such that `T ( W ) ⊂ W`.-/
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: One question about this: do you know if there is an expected outcome (by the research community) for this problem? I.e. do people expect a counterexample to exist or not?  Generally, our convention is that if there isn't much of a consensus, then a problem should be stated using `↔ answer(sorry)` to indicate that.

Comment (yoh-tanimoto) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: It seems that the experts expect a positive solution (existence of a nontrivial invariant subspace for any bounded operator in a Hilbert space), see Section 2 of https://arxiv.org/abs/2507.21834

**Comment by yoh-tanimoto** [comment]
I added some solved cases, and to do so, generalized the definition of `ClosedInvariantSubspace`. It would be nice to mention the counterexample by Enflo, but I don't know how the Banach space should look like.

One could also write but I don't know whether this is useful
```lean4
structure ClosedInvariantSubspace [NormedAddCommGroup H] [Module ℂ H] (T : ContinuousLinearMap (RingHom.id ℂ) H H) where
  toSubspace : Submodule ℂ H
  ne_bot : toSubspace ≠ ⊥
  ne_top : toSubspace ≠ ⊤
  is_closed : IsClosed (toSubspace : Set H)
  is_fixed : toSubspace.map T ≤ toSubspace

theorem Invariant_subspace_problem_counterexample : 
    ∃ (n : NormedAddCommGroup H), ∃ (m : Module ℂ H), ∃ (T : @ContinuousLinearMap ℂ ℂ _ _ _ H (n.toUniformSpace.toTopologicalSpace) n.toAddCommMonoid H (n.toUniformSpace.toTopologicalSpace) n.toAddCommMonoid m m),
    CompleteSpace H ∧ IsEmpty (@ClosedInvariantSubspace H n m T) := by
  sorry
```

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: Ok good to know. In this case, I would maybe reformulate the docstring a tiny bit to make this more apparent (e.g. "Determine whether" -> "Show that" or something along those lines)

**Comment by Paul-Lez** [comment]
> It would be nice to mention the counterexample by Enflo, but I don't know how the Banach space > should look like.

Feel free to leave a comment about it if the construction is too involved to be added in this repo!

> ```
> theorem Invariant_subspace_problem_counterexample : 
>     ∃ (n : NormedAddCommGroup H), ∃ (m : Module ℂ H), ∃ (T : @ContinuousLinearMap ℂ ℂ _ _ _ H (n.toUniformSpace.toTopologicalSpace) n.toAddCommMonoid H (n.toUniformSpace.toTopologicalSpace) n.toAddCommMonoid m m),
>     CompleteSpace H ∧ IsEmpty (@ClosedInvariantSubspace H n m T) := by
>   sorry
> ```

For this, I'm happy to stick to the stronger statement you added with the l1 space.

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: I agree, done

**Comment by yoh-tanimoto** [comment]
I see. I included a comment on Enflo's paper in the docstring.
